US04432976
18.0 g of 21-acetoxy-9α-fluoro-11β-hydroxy-16α,17α-methylenedioxy-1,4-pregnadiene-3,20-dione is stirred in a mixture of 216 ml of 60% perchloric acid and 720 ml of methanol at room temperature for 18 hours. The reaction solution is diluted with methylene chloride and poured on water. After extraction with methylene chloride, neutralizing, washing, drying, and concentration of the organic extracts, 14.0 g of a crude product is obtained which is recrystallized from hexane/acetone, yielding 10.6 g of 9α-fluoro-11β,21-dihydroxy-16α,17α-methylenedioxy-1,4-pregnadiene-3,20-dione, mp 262° C.

reactant | 21-acetoxy-9α-fluoro-11β-hydroxy-16α,17α-methylenedioxy-1,4-pregnadiene-3,20-dione | 18.0 g | C(C)(=O)OCC([C@@]12[C@@H](C[C@H]3[C@@H]4CCC5=CC(C=C[C@]5(C)[C@]4([C@H](C[C@]13C)O)F)=O)OCO2)=O | C24H29FO7
solvent | perchloric acid | 216 ml | Cl(=O)(=O)(=O)O | ClHO4
solvent | methanol | 720 ml | CO | CH4O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 9α-fluoro-11β,21-dihydroxy-16α,17α-methylenedioxy-1,4-pregnadiene-3,20-dione | 10.6 g | F[C@@]12[C@]3(C=CC(C=C3CC[C@H]1[C@@H]1C[C@@H]3[C@](C(CO)=O)([C@]1(C[C@@H]2O)C)OCO3)=O)C | C22H27FO6
